US08895571B2
Step D: 2-[(2S)-2-[5-(1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]-3-(3,5-di fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione
A mixture of 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.557 g, 2.68 mmol), bis(tri-t-butylphosphine)palladium (0.114 g, 0.223 mmol), 2-[(2S)-2-(5-bromo-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-3-(3,5-difluorophenyl)propyl]-1H-isoindole-1, 3(2H)-dione (1.05 g, 2.06 mmol) and N,N-diisopropylethylamine (1.16 mL, 6.69 mmol) in 1,4-dioxane (12 mL, 150 mmol) and water (0.60 mL, 33 mmol) was stirred under microwave at 110° C. for 15 minutes. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated under reduced pressure. The residue was purified by combi-flash chromatography eluted with EtOAc/hexane (30-100%) to give 0.72 g (68.4% yield) of the desired product. LCMS found: 513.1 (M+H)+.

reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.68 mmol, 0.557 g | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | 2-[(2S)-2-(5-bromo-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-3-(3,5-difluorophenyl)propyl]-1H-isoindole-1, 3(2H)-dione | 2.06 mmol, 1.05 g | BrC=1C=C2CN(C(C2=CC1)=O)[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=CC(=CC(=C1)F)F | C25H17BrF2N2O3
reactant | N,N-diisopropylethylamine | 6.69 mmol, 1.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,4-dioxane | 150 mmol, 12 mL | O1CCOCC1 | C4H8O2
reactant | water | 33 mmol, 0.60 mL | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 0.223 mmol, 0.114 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-[(2S)-2-[5-(1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]-3-(3,5-di fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 0.72 g, 68.4% yield | CN1N=CC=C1C=1C=C2CN(C(C2=CC1)=O)[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=CC(=CC(=C1)F)F | C29H22F2N4O3
